US06602825B1
N-(4-Chloro-6-fluoro-2-methoxy-3-nitrophenyl)acetamide
A solution of 72.5 g (647 mmol) of NaOSi(CH3)3 in 25 ml of tetrahydrofuran was added dropwise at approximately 20° C. to a solution of 81 g (323 mmol) of N-(4-chloro-2,6-difluoro-3-nitro-phenyl)acetamide in 490 ml of dioxane and 50 ml of methanol. The mixture was subsequently heated for two hours at reflux temperature. After cooling and concentrating, the crude product (black oil) was stirred into ice-cold 10% strength hydrochloric acid. The resulting product of value was then extracted with ethyl acetate (3 times). The combined organic phases were dried over magnesium sulfate and concentrated under reduced pressure. The residue was stirred once with water. The insoluble components were removed and washed three times with water. After drying, 52.1 g (63%) of the product of value were obtained.

reactant | NaOSi(CH3)3 | 647 mmol, 72.5 g | O([Na])[Si](C)(C)C
reactant | N-(4-chloro-2,6-difluoro-3-nitro-phenyl)acetamide | 323 mmol, 81 g | ClC1=C(C(=C(C(=C1)F)NC(C)=O)F)[N+](=O)[O-] | C8H5ClF2N2O3
reactant | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | dioxane | 490 ml | O1CCOCC1 | C4H8O2
solvent | methanol | 50 ml | CO | CH4O
product | N-(4-Chloro-6-fluoro-2-methoxy-3-nitrophenyl)acetamide | 52.1 g, 63% | ClC1=C(C(=C(C(=C1)F)NC(C)=O)OC)[N+](=O)[O-] | C9H8ClFN2O4
